US07186729B2
Step 2: 3-[(4-Chloro-benzyl)-isobutyl-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of 3-(4-chloro-benzylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.4 g, 1.28 mmol) and isobutyraldehyde (0.14 g, 1.92 mmol) in dichloroethane was added sodium triacetoxy borohydride (0.81 g, 3.85 mmol) and catalytic acetic acid. The resulting reaction mixture was stirred at room temperature overnight. The reaction mixture was concentrated, dissolved in dichloromethane and washed with saturated aqueous sodium bicarbonate. The combined organics were washed with brine and dried over sodium sulfate. The crude product was purified on silica using gradient elution from hexane/ethyl acetate (10%) to hexane/ethyl acetate (50%). 1H-NMR (CDCl3) δ: 0.80 (6H, 2×d), 1.45 (9H, s), 1.60–1.90 (2H, m), 2.20 (2H, d), 3.00–3.70 (7H, m), 7.20 (4H,s). ESI-MS m/z: 367 (M+1), UV retention time: 1.89 min.

reactant | 3-(4-chloro-benzylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.28 mmol, 0.4 g | C(C)(C)(C)OC(=O)N1CC(CC1)NCC1=CC=C(C=C1)Cl | C16H23ClN2O2
reactant | isobutyraldehyde | 1.92 mmol, 0.14 g | C(C(C)C)=O | C4H8O
reactant | sodium triacetoxy borohydride | 3.85 mmol, 0.81 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 3-[(4-Chloro-benzyl)-isobutyl-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)N(CC(C)C)CC1=CC=C(C=C1)Cl | C20H31ClN2O2
